US07314888B1
In 100 ml of tetrahydrofuran is suspended 39.8 g of isopentyltriphenylphosphonium iodide. At −25° C. to −20° C., 52 ml of a 1.6 mol/L solution of n-butyllithium in n-hexane is dropwise added to the suspension. After stirring the mixture thus obtained at −25° C. to −15° C. for one hour, the temperature is elevated to ambient temperature over a period of one hour. A solution of 10.0 g of 1,4-dioxaspiro[4.5]-decan-8-one in 50 ml of tetrahydrofuran is added to the reaction mixture and stirred at ambient temperature for one hour. The reaction mixture is added to a mixture of ethyl acetate and water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=95:5) to obtain 10.5 g of 8-(3-methylbutylidene)-1,4-dioxaspiro[4.5]decane as a colorless oily product.

reactant | isopentyltriphenylphosphonium iodide | 39.8 g | [I-].C(CC(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,4-dioxaspiro[4.5]-decan-8-one | 10.0 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-(3-methylbutylidene)-1,4-dioxaspiro[4.5]decane | 10.5 g | CC(CC=C1CCC2(OCCO2)CC1)C | C13H22O2
